US04847254
5-Amino-N,N-dipropyl-3-benzothiophencarboxamide
80 g of 5-nitro-N,N-dipropyl-3-benzothiophencarboxamide were reduced with Fe-powder in 90% ethanol as in Example 11. Yield of title compound: 75 g as a semicrystalline product. 1H NMR(CDCl3): 7.0 ppm(d,1H); 6.5 ppm(d,1H); 6.3 ppm(s,1H); 4.4 ppm(dd,1H); 3.0-3.9 ppm(m,8H); 1.4-1.9 ppm(m,4H); 0.9 ppm(d.t.,6H).

reactant | 5-nitro-N,N-dipropyl-3-benzothiophencarboxamide | 80 g | [N+](=O)([O-])C=1C=CC2=C(C(=CS2)C(=O)N(CCC)CCC)C1 | C15H18N2O3S
solvent | ethanol | C(C)O | C2H6O
catalyst | Fe | [Fe] | Fe
product | 5-Amino-N,N-dipropyl-3-benzothiophencarboxamide | NC=1C=CC2=C(C(=CS2)C(=O)N(CCC)CCC)C1 | C15H20N2OS
